US08198456B2
A mixture of 4-(3-cyano-4-fluorophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile (9.5 g, 34.14 mmol), from Synthetic Example 1, and hydrazine hydrate (10 g, 312 mmol) in n-butyl alcohol (75 mL) was kept at 80° C. for 5 hr. The mixture was cooled and concentrated. Sodium bicarbonate solution (sat.) was added to the residue, and the mixture was extracted with ethyl acetate. The organic phases were combined, dried, and concentrated to afford 4-(3-amino-1H-indazol-5-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile (5.6 g, 57.01%) as a pale yellow solid (Cpd. No. 82, Table 2). 1H-NMR (300 MHZ, DMSO-D6): δ=11.39 (br. s, 1H), 9.47 (br. s, 1H), 7.50 (m, 1H), 7.20 (d, 1H), 7.11 (dd, 1H), 5.34 (br. s, 2H), 4.34 (s, 1H), 2.01 (s, 6H) ppm.

reactant | 4-(3-cyano-4-fluorophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile | 34.14 mmol, 9.5 g | C(#N)C=1C=C(C=CC1F)C1C(=C(NC(=C1C#N)C)C)C#N | C16H11FN4
reactant | hydrazine hydrate | 312 mmol, 10 g | O.NN
solvent | n-butyl alcohol | 75 mL | C(CCC)O | C4H10O
product | 4-(3-amino-1H-indazol-5-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile | 5.6 g, 57.01% | NC1=NNC2=CC=C(C=C12)C1C(=C(NC(=C1C#N)C)C)C#N | C16H14N6
